US09340549B2
A resealable tube was charged with (S)-3-(4-(5-bromo-2-fluoropyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.050 g, 0.113 mmol), 2-(tributylstannyl)pyrimidine (commercially available from Frontier Scientific, Inc., Logan Utah) (0.056 mL, 0.170 mmol), lithium chloride (9.61 mg, 0.227 mmol), copper (I) iodide (2.158 mg, 0.011 mmol), and DMF (1.0 mL). Tetrakis(triphenylphosphine)palladium(0) (0.013 g, 0.011 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture was then stirred at 100° C. for 12 hours. The reaction mixture was next concentrated to afford a brown oil. The residual oil was purified by column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% EtOAc-hexane) to afford (S)-3-(4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (0.021 g, 0.048 mmol, 42% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.90-1.00 (m, 3H), 1.66 (s, 3H), 5.53 (s, 1H), 7.21-7.46 (m, 5H), 7.54 (t, J=4.89 Hz, 1H), 7.60-7.74 (m, 4H), 8.81 (dd, J=9.78, 2.35 Hz, 1H), 8.96 (d, J=4.89 Hz, 2H), 9.09 (dd, J=2.25, 1.08 Hz, 1H). m/z (ESI) 441 (M+H)+.

reactant | (S)-3-(4-(5-bromo-2-fluoropyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.113 mmol, 0.050 g | BrC=1C=C(C(=NC1)F)C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O | C22H18BrFN2O2
reactant | 2-(tributylstannyl)pyrimidine | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | lithium chloride | 0.227 mmol, 9.61 mg | [Cl-].[Li+]
catalyst | copper (I) iodide | 0.011 mmol, 2.158 mg | [Cu]I
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.011 mmol, 0.013 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (S)-3-(4-(2-fluoro-5-(pyrimidin-2-yl)pyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.048 mmol, 0.021 g, 42% yield | FC1=NC=C(C=C1C1=CC=C(C=C1)N1C(OC([C@@H]1C1=CC=CC=C1)(C)C)=O)C1=NC=CC=N1 | C26H21FN4O2
